US08030337B2
N-{2-[2-(Dimethylamino)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) was suspended in dichloromethane (3.7 mL), triethylamine (51.5 μg, 0.369 mmol) was added at room temperature, and the mixture was stirred for 15 min. Thereto was added dichloromethylenedimethyliminium chloride (59.9 mg, 0.369 mmol), and the mixture was heated under reflux for 1 hr. To the reaction solution was added saturated aqueous sodium hydrogencarbonate solution. The mixture was diluted with ethyl acetate, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) to give the title compound (7.4 mg, yield 7%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | triethylamine | 0.369 mmol, 51.5 μg | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3.7 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-[2-(Dimethylamino)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 7.4 mg, yield 7% | CN(C=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)C | C16H21N3O2
